US09062032B2
A borane-THF complex (1.08 M THF solution) 23 mL was added dropwise to a mixture of 3.02 g of tert-butyl 4-[3-(4-nitrophenyl)propanoyl]piperazine-1-carboxylate and THF 40 mL under ice cooling in an argon atmosphere, followed by stirring for 10 minutes at room temperature, and then heating under reflux was performed for 2 hours. The reaction mixture was cooled with ice, and 30 mL of methanol was added dropwise thereto, followed by stirring for 3 hours at 50° C. The reaction mixture was concentrated under reduced pressure, water and ethyl acetate were added to the residue, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (5% methanol/chloroform), thereby obtaining 2.78 g of tert-butyl 4-[3-(4-nitrophenyl)propyl]piperazine-1-carboxylate.

reactant | borane THF | 1.08 M, 23 mL | B.C1CCOC1
reactant | tert-butyl 4-[3-(4-nitrophenyl)propanoyl]piperazine-1-carboxylate | 3.02 g | [N+](=O)([O-])C1=CC=C(C=C1)CCC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H25N3O5
reactant | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
product | tert-butyl 4-[3-(4-nitrophenyl)propyl]piperazine-1-carboxylate | 2.78 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCN1CCN(CC1)C(=O)OC(C)(C)C | C18H27N3O4
